US08492372B2
N-{[6-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PROPAN-1-AMINE
Preparation according to Example 18. N-[(7-bromo-6-fluoro-4H-1,3-benzodioxin-2-yl)methyl]propan-1-amine (0.30 g, 0.99 mmol), sodium methanesulfinate (0.15 g, 1.23 mmol, 85%), copperiodide (19 mg, 0.10 mmol), L-proline (56 mg, 0.49 mmol) and DMSO (6 ml) was heated at 140° C. for 1 h. Purification was made twice by flash column chromatography (ETOAc/MeOH 10:1) and afforded the title compound (135 mg, 45%). The amine was converted into the hydrochloric acid salt and crystallized from EtOH/DEE. M.p. 225° C. 1H-NMR (400 MHz, MeOH): δ 7.34 (1H, d, J 6.0 Hz), δ 7.13 (1H, d, J 9.6 Hz), δ 5.21 (1H, t, J 4.8 Hz), δ 5.02 (2H, dd, J1 45.2 Hz, J2 15.6 Hz), δ 3.23 (3H, s), δ 2.96 (2H, m), δ 2.64 (2H, t, J 7.6 Hz), δ 1.56 (2H, m), δ 0.95 (3H, t, J 7.2 Hz).

reactant | N-[(7-bromo-6-fluoro-4H-1,3-benzodioxin-2-yl)methyl]propan-1-amine | 0.99 mmol, 0.30 g | BrC=1C(=CC2=C(OC(OC2)CNCCC)C1)F | C12H15BrFNO2
reactant | sodium methanesulfinate | 1.23 mmol, 0.15 g | CS(=O)[O-].[Na+]
reactant | L-proline | 0.49 mmol, 56 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
catalyst | copperiodide | 0.10 mmol, 19 mg | [Cu](I)I
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | N-{[6-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PROPAN-1-AMINE | 135 mg, 45% | FC1=CC2=C(OC(OC2)CNCCC)C=C1S(=O)(=O)C | C13H18FNO4S
